US06693154B2
Preparation of an Iron(II) 1,3-Bis(2-mesitylimino)isoindoline Complex
A 100-mL round-bottom flask equipped with a nitrogen inlet and an internal fritted-glass filter is charged with phthalimide (2.94 g, 20.0 mmol) and ethyl acetate (60 mL). (The fritted-glass filter is attached to the end of a glass tube, which is inserted into the reactor through a rubber septum. The filter is easily raised above or lowered below the surface of liquids in the reactor.) 2,4,6-Trimethylaniline (5.41 g, 40.0 mmol, 2.0 eq.) and iron(II) chloride (2.54 g, 20.0 mmol) are added to the flask, and the mixture is stirred under nitrogen at room temperature for 1 h. The yellow mixture is heated to reflux (77° C.) for 10 h, and is then stirred at room temperature for 32 h. A brown precipitate forms. The reaction mixture is concentrated by stripping out the ethyl acetate under a stream of nitrogen. Cold diethyl ether (30 mL) is added to the residue, and the mixture is stirred to wash the residue. The glass filter is immersed in the liquid phase, which is then removed at reduced pressure through the internal filter. The solids are dried under vacuum for 2 h to give a brown powder. Yield: 10.11 g (99.4%).

reactant | phthalimide | 20.0 mmol, 2.94 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 2,4,6-Trimethylaniline | 40.0 mmol, 5.41 g, 2.0 eq. | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | iron(II) chloride | 20.0 mmol, 2.54 g | [Fe](Cl)Cl
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | Iron(II) 1,3-Bis(2-mesitylimino)isoindoline | C1(=C(C(=CC(=C1)C)C)N=C1NC(C2=CC=CC=C12)=NC1=C(C=C(C=C1C)C)C)C.[Fe+2] | InChI=1S/C26H27N3.Fe/c1-15-11-17(3)23(18(4)12-15)27-25-21-9-7-8-10-22(21)26(29-25)28-24-19(5)13-16(2)14-20(24)6;/h7-14H,1-6H3,(H,27,28,29);/q;+2
